US05494907
STEP A: 5-Chloropentane-sulfonamide
2.5 ml of a 28% aqueous solution of ammonium hydroxide were added dropwise at 0° to +5° C. under an inert gas atmosphere to a solution of 2.5 g of 5-chloropentane sulfonyl chloride (preparation described in: Bull. Soc. Chim. Belg. (1965) Vol. 74., p. 21) in 30 ml of tetrahydrofuran. The temperature was allowed to rise from 3° C. to 16° C., and the mixture was stirred at ambient temperature for 2 hours. The tetrahydrofuran was evaporated under reduced pressure and the residue was taken up in water, extracted with methylene chloride, washed with water, then with an aqueous solution of sodium chloride, dried and evaporated under reduced pressure to obtain 2.01 g of the expected product melting at 62° C.

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 5-chloropentane sulfonyl chloride | 2.5 g | ClCCCCCS(=O)(=O)Cl | C5H10Cl2O2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-Chloropentane-sulfonamide | 2.01 g | ClCCCCCS(=O)(=O)N | C5H12ClNO2S
